US04644010
Reaction of 2.4 g of 2-pyrroloylacetonitrile with 3.1 g of 2,4-difluorophenyl isocyanate in the presence of 2.0 g Et3N in 25 ml of glyme and isolation similarly to the preceding examples, followed by trituration with and recrystallization from ethanol gives β-oxo-α-(2,4-difluorophenylcarbamoyl)-β-(2-pyrrolyl)-propionitrile, m.p. 169°-171°.

reactant | 2-pyrroloylacetonitrile | 2.4 g | N1C(=CC=C1)C(=O)CC#N | C7H6N2O
reactant | 2,4-difluorophenyl isocyanate | 3.1 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | Et3N | 2.0 g | CCN(CC)CC | C6H15N
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
product | β-oxo-α-(2,4-difluorophenylcarbamoyl)-β-(2-pyrrolyl)-propionitrile | O=C(C(C#N)C(NC1=C(C=C(C=C1)F)F)=O)C=1NC=CC1 | C14H9F2N3O2
